US04997648
(a) H-Dab(Fmoc)-OH
Cupric sulphate (1.4 g, 5.5 mM) in (5.5 cm3) water was added to a stirred solution of H-Dab-OH.2HCl (2 g, 0.5 mM) and NaOH (0.8 g. 0.02 mM) in water (44 cm3), and the resulting mixture stirred for one hour. 9-Fluorenyl succinimide carbonate (3.2 g) was then added dropwise with vigorous stirring and the resulting mixture stirred at room temperature for three days. The precipitate resulting was filtered, washed with water and dried. Excess ethylene diamine tetraacetic acid disodium salt was then added to one liter of boiling water, and the suspension kept at boiling point for ten minutes. The product was filtered, washed with water and dried in high vacuo over phosphorus pentoxide, (3.4 g. 94%), m.p., 166° C.

reactant | H-Dab-OH.2HCl | 0.5 mM, 2 g | N[C@@H](CCN)C(=O)O.Cl.Cl
reactant | NaOH | 0.02 mM, 0.8 g | [OH-].[Na+]
reactant | 9-Fluorenyl succinimide carbonate | 3.2 g | C(O)(O)=O.C1=CC=CC=2C3=CC=CC=C3C(C12)C1C(=O)NC(C1)=O
solvent | water | 5.5 cm3 | O | H2O
solvent | water | 44 cm3 | O | H2O
product | H-Dab(Fmoc)-OH | N[C@@H](CCNC(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)C(=O)O | C19H20N2O4
